US08431576B2
1-(7-(4-(4-(2,3-dichlorophenyl)piperazin-1-yl)butoxy)-2-oxo-3,4-dihydroquinolin-1(2H)-yl)-2-ethoxy-2-oxoethyl decanoate (Example 35, Compound 111)
A mixture of Aripiprazole (2.0 g, 4.5 mmol), ethyl glyoxylate (50% soln. in toluene, 2.7 mL), K2CO3 (0.49 g, 3.6 mmol), tetrabutylammonium bromide (0.57 g, 1.8 mmol) and dichloromethane (20 mL) was heated at reflux for 4 h. The reaction mixture was cooled and quickly washed with water, dried over MgSO4 and filtered. The resulting solution was treated with pyridine (1.8 mL, 22.2 mmol) and then decanoylchloride (4.6 mL, 22.2 mmol). After being stirred for 3 h, methanol (1 mL) was added and stirred a further 10 min. The reaction mixture was washed with sat. NaHCO3 (aq), dried over MgSO4 and evaporated. The residue was purified on silica eluting with 1:1:0.1 dichloromethane/ethyl acetate/methanol to give the title compound as a yellow oil (1.2 g, 38%).

reactant | Aripiprazole | 4.5 mmol, 2.0 g | C=1C=C(C(=C(C1)Cl)Cl)N2CCN(CC2)CCCCOC=3C=CC4=C(C3)NC(=O)CC4 | C23H27Cl2N3O2
reactant | ethyl glyoxylate | 2.7 mL | C(C=O)(=O)OCC | C4H6O3
reactant | K2CO3 | 3.6 mmol, 0.49 g | C(=O)([O-])[O-].[K+].[K+]
reactant | pyridine | 22.2 mmol, 1.8 mL | N1=CC=CC=C1 | C5H5N
reactant | decanoylchloride | 22.2 mmol, 4.6 mL | C(CCCCCCCCC)(=O)Cl | C10H19ClO
catalyst | tetrabutylammonium bromide | 1.8 mmol, 0.57 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | methanol | 1 mL | CO | CH4O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 1-(7-(4-(4-(2,3-dichlorophenyl)piperazin-1-yl)butoxy)-2-oxo-3,4-dihydroquinolin-1(2H)-yl)-2-ethoxy-2-oxoethyl decanoate | 1.2 g, 38% | C(CCCCCCCCC)(=O)OC(C(=O)OCC)N1C(CCC2=CC=C(C=C12)OCCCCN1CCN(CC1)C1=C(C(=CC=C1)Cl)Cl)=O | C37H51Cl2N3O6
